US05179125
2-Acetylthiomethyl-3-phenylpropionic acid (18.5 g) is mixed with 70% aqueous methanol (100 ml), and the mixture is stirred at room temperature for one hour under nitrogen while maintaining at pH 13.0 with 20% aqueous sodium hydroxide solution, and thereafter the mixture is adjusted to pH 2.0 with 20% hydrochloric acid, and methanol is distilled off under reduced pressure. The residue is purified by a column chromatography using Diaion HP-20 (eluant, water-acetonitrile). The fractions containing the desired compound are collected and acetonitrile is distilled off under reduced pressure. The aqueous solution is extracted with ethyl acetate. The extract is dried over anhydrous magnesium sulfate, and ethyl acetate is distilled off under reduced pressure to give 2-mercaptomethyl-3-phenylpropionic acid (8 g) as a colorless oily substance.

reactant | 2-Acetylthiomethyl-3-phenylpropionic acid | 18.5 g | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 2-mercaptomethyl-3-phenylpropionic acid | 8 g | SCC(C(=O)O)CC1=CC=CC=C1 | C10H12O2S
